US06984646B2
Step 1 2,5,6-Trimethyl-4,5,6,7-tetrahydro-1H-benzimidazole
10.0 g (62.41 mmol) 2,5,6-Trimethylbenzimidazole are dissolved in 60 ml glacial acid. 2.0 g (1.89 mmol) palladium (10% on carbon) are added under argon and the reaction mixture is treated with hydrogen at a temperature of 150° C. and 80 bar pressure for 48 h. The solution is filtrated over celite and washed with glacial acid. The solvent is evaporated under vacuum, 10 ml water and sodium hydroxid solution are added the solution to a pH of 9-10. The precipitate is filtrated and washed with water. The precipitate is dissolved in ethyl acetate/dichlor-methane and extracted with saturated sodium chloride solution. The organic phase is dried over sodium sulfate, filtrated and concentrated under vacuum. Diethylether is added, the crystalls are filtrated and dried.

reactant | 2,5,6-Trimethylbenzimidazole | 62.41 mmol, 10.0 g | CC=1NC2=C(N1)C=C(C(=C2)C)C | C10H12N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 1.89 mmol, 2.0 g | [Pd] | Pd
product | 2,5,6-Trimethyl-4,5,6,7-tetrahydro-1H-benzimidazole | CC1=NC2=C(N1)CC(C(C2)C)C | C10H16N2
